US07470710B2
(RS)-1-Benzofuran-2-yl-1-(1-{1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-piperidin-2-yl)-methanone
The title compound was prepared, using the method of Example 1, from 5-(4-fluoro-phenyl)-2-methyl-thiazole4-carbonyl chloride (0.1 g, 0.39 mmol) and (RS)-1-benzofuran-2-yl-1-piperidin-2-yl-methanone, D9 (0.1 g, 0.43 mmol) as a colourless solid (0.074 g, 43%)

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole4-carbonyl chloride | 0.39 mmol, 0.1 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)Cl | C11H7ClFNOS
reactant | (RS)-1-benzofuran-2-yl-1-piperidin-2-yl-methanone | O1C(=CC2=C1C=CC=C2)C(=O)C2NCCCC2 | C14H15NO2
product | (RS)-1-Benzofuran-2-yl-1-(1-{1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanoyl}-piperidin-2-yl)-methanone | O1C(=CC2=C1C=CC=C2)C(=O)C2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C25H21FN2O3S
